US08492378B2
N,N-dimethyl-5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-amine
To a mixture of O-methylhydroxylamine hydrochloride (0.59 g, 7.07 mmol), N,N-dimethylformamide (0.7 mL) and tetrahydrofuran (1.4 mL) was added sodium hydride (60% in oil, 0.31 g, 12.8 mmol) at 0° C., and the resulting mixture was stirred for 15 min. 2-(Methylsulfonyl)-5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole (0.30 g, 0.71 mmol) was added to the mixture, and the resulting mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=7/3) and recrystallized from hexane/diisopropyl ether to give the title compound (32.7 mg, yield 12%) as colorless crystals.

reactant | O-methylhydroxylamine hydrochloride | 7.07 mmol, 0.59 g | Cl.CON
reactant | N,N-dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 12.8 mmol, 0.31 g | [H-].[Na+]
reactant | 2-(Methylsulfonyl)-5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole | 0.71 mmol, 0.30 g | CS(=O)(=O)C=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC(=CC=C2)OC(F)(F)F)C1 | C18H11F3N2O5S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1.4 mL | O1CCCC1 | C4H8O
product | N,N-dimethyl-5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-amine | 32.7 mg, yield 12% | CN(C=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC(=CC=C2)OC(F)(F)F)C1)C | C19H14F3N3O3
